US09126993B2
A mixture of methyl 2-(quinuclidin-3-ylidene)acetate (70 mg, 0.38 mmol) and Pd/C (100 mg, 20% w/w) in EtOH (10 mL) was stirred under H2 (20 psi) at room temperature for 18 h. The reaction solution was filtered through Celite and the filtrate was concentrated under reduced pressure to afford crude methyl 2-(quinuclidin-3-yl)acetate (60 mg, 85%), which was used with purification in the next step.

reactant | methyl 2-(quinuclidin-3-ylidene)acetate | 0.38 mmol, 70 mg | N12CC(C(CC1)CC2)=CC(=O)OC | C10H15NO2
solvent | EtOH | 10 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | methyl 2-(quinuclidin-3-yl)acetate | 60 mg, 85% | N12CC(C(CC1)CC2)CC(=O)OC | C10H17NO2
